US07759518B2
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine (0.182 mmol) was reacted with 5-(5-chloro-1,2,4-thiadiazol-3-yl)thiophene-2-sulfonyl chloride (0.5 mmol) to obtain 5-(5-chloro-1,2,4-thiadiazol-3-yl)-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide. 1H NMR (300 MHz, CDCl3)) δ 5.8 (dt, 1H), 5.95 (s, 1H), 6.95 (d, 1H), 7.4 (m, 2H), 7.6 (d, 1H), 7.8 (s, 1H).

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | 0.182 mmol | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 5-(5-chloro-1,2,4-thiadiazol-3-yl)thiophene-2-sulfonyl chloride | 0.5 mmol | ClC1=NC(=NS1)C1=CC=C(S1)S(=O)(=O)Cl | C6H2Cl2N2O2S3
product | 5-(5-chloro-1,2,4-thiadiazol-3-yl)-N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)thiophene-2-sulfonamide | ClC1=NC(=NS1)C1=CC=C(S1)S(=O)(=O)NC1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F | C18H9ClF3IN4O2S3
